US06472393B1
N-[2-[4-(2-chloro-1-phenyl-ethoxy)-3-methoxy-phenyl]-2-(4-cyano-phenylamino)-ethyl]-benzenesulfonamide (100 mg 0.18 mmoles) was dissolved in ethanol (3 ml) and hydroxylaminehydrochloride (62 mg, 0.89 mmoles) added. To this was added triethylamine (90 mg, 0.89 mmoles) and later potassium carbonate (62 mg). The reaction was heated to 80° C. for 48 hours. The reaction was cooled and the solvent removed in vacuo. The residue was taken up in ethyl acetate and washed twice with water and once with brine. The solution was dried over sodium sulfate and the solvent removed. The crude intermediate was dissolved in methanol (4 ml) and a few drops of acetic acid added. Approximately 50-100 mg of Raney nickel suspended in sodium hydroxide (Aldrich) was added and the reaction placed under an atmosphere of hydrogen. The suspension was stirred vigorously for 8 hours, the catalyst filtered off and the solvent removed in vacuo. The crude product was purified by reverse-phase chromatography to yield 4-{2-benzenesulfonylamino-1-[4-(2-chloro-1-phenyl-ethoxy)-3-methoxy-phenyl]-ethylamino}-benzamidine (32 mg). MS(M+H)=579.

reactant | N-[2-[4-(2-chloro-1-phenyl-ethoxy)-3-methoxy-phenyl]-2-(4-cyano-phenylamino)-ethyl]-benzenesulfonamide | 0.18 mmoles, 100 mg | ClCC(OC1=C(C=C(C=C1)C(CNS(=O)(=O)C1=CC=CC=C1)NC1=CC=C(C=C1)C#N)OC)C1=CC=CC=C1 | C30H28ClN3O4S
reactant | hydroxylaminehydrochloride | 0.89 mmoles, 62 mg | Cl.NO
reactant | triethylamine | 0.89 mmoles, 90 mg | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-{2-benzenesulfonylamino-1-[4-(2-chloro-1-phenyl-ethoxy)-3-methoxy-phenyl]-ethylamino}-benzamidine | 32 mg | C1(=CC=CC=C1)S(=O)(=O)NCC(C1=CC(=C(C=C1)OC(CCl)C1=CC=CC=C1)OC)NC1=CC=C(C(=N)N)C=C1 | C30H31ClN4O4S
